US07863291B2
To 2-hydroxy-5-nitropyridine (7 g, 50 mmol) in acetonitrile (500 mL) was added sodium sulfate (1.5 g, 10.6 mmol), and 2,2-difluoro-2-(fluorosulfonyl)acetic acid (6.2 mL, 60 mmol) and the reaction was allowed to stir at room temperature for 16 hours. The reaction was quenched with saturated aqueous sodium bicarbonate and the acetonitrile was removed in vacuo. The remaining aqueous component was extracted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The pale brown oily solid was triturated with ether/hexanes, filtered and the filtrate concentrated to afford 2-(difluoromethoxy)-5-nitropyridine (4.7 g, 24.7 mmol, 49% yield) as a yellow oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.14 (d, J=2.76 Hz, 1 H), 8.68 (dd, J=9.03, 2.76 Hz, 1 H), 7.98 (s, 0.5 H), 7.62 (s, 0.5 H), 7.34 (d, J=9.03 Hz, 1 H).

reactant | 2-hydroxy-5-nitropyridine | 50 mmol, 7 g | OC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O3
reactant | sodium sulfate | 10.6 mmol, 1.5 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,2-difluoro-2-(fluorosulfonyl)acetic acid | 60 mmol, 6.2 mL | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 2-(difluoromethoxy)-5-nitropyridine | 24.7 mmol, 4.7 g, 49% yield | FC(OC1=NC=C(C=C1)[N+](=O)[O-])F | C6H4F2N2O3
